US06211199B1
37.1 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine
Prepare by the method of Example 4.1 using 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-difluorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine and (1H-benzimidazol-2-yl)(piperidin-4-yl)amine to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-difluorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC(=C(C=C2)F)F)C=C(C1OC)OC | C23H27F2NO7S
reactant | (1H-benzimidazol-2-yl)(piperidin-4-yl)amine | N1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C12H16N4
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C34H39F2N5O4
